US08372842B2
Methyl 2-(4-chlorophenyl)-3-hydroxypropanoate (39.4 g, 184 mmol) was dissolved in dichloromethane (“DCM”; 500 mL) and treated with triethylamine (“TEA”; 64.0 mL, 459 mmol). The solution was cooled to 0° C. and slowly treated with MsCl (15.6 mL, 202 mmol), then allowed to stir for 30 minutes to completion by TLC analysis. The solution was partitioned with 1N HCl solution, and the aqueous layer was extracted once with DCM. The combined organic layer was washed once more with 1N HCl solution, separated, washed with diluted NaHCO3 solution, and separated. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to afford an oil. The residue was loaded onto a large fritted filter with a plug of silica gel and eluted with 9:1 hexanes:ethyl acetate affording the pure desired product by TLC analysis. The concentrated pure fractions yielded the methyl 2-(4-chlorophenyl)acrylate as an oil (30.8 g, 85%). This methyl 2-(4-chlorophenyl)acrylate (500 mg, 2.54 mmol) was added as a solution in THF (1.35 mL) to a stirring solution of i-PrNH2 (217 μL, 2.54 mmol) in THF (5.0 mL) at 0° C. The reaction was allowed to stir at room temperature overnight to completion by LCMS analysis. The Boc2O (584 μL, 2.54 mmol) was added to the stirring amine via pipet. The reaction was allowed to stir overnight to completion by LCMS and TLC analysis of the mixture. The solution was concentrated in vacuo to afford methyl 3-(tert-butoxycarbonyl(isopropyl)amino)-2-(4-chlorophenyl)propanoate as an oil (854 mg, 94%). LC/MS (APCI+) m/z 256.1 [M-Boc]+.

reactant | Methyl 2-(4-chlorophenyl)-3-hydroxypropanoate | 184 mmol, 39.4 g | ClC1=CC=C(C=C1)C(C(=O)OC)CO | C10H11ClO3
reactant | triethylamine | 459 mmol, 64.0 mL | C(C)N(CC)CC | C6H15N
reactant | MsCl | 202 mmol, 15.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | methyl 2-(4-chlorophenyl)acrylate | 30.8 g, 85% | ClC1=CC=C(C=C1)C(C(=O)OC)=C | C10H9ClO2
